* Z:\home\mwismer\Dropbox\VLSI\FinalProject\LTC\DAC.asc
R9 N001 N005 10k
R10 N005 N008 10k
R11 N008 N011 10k
R12 N011 N014 10k
R13 N014 N017 10k
R14 N017 N020 10k
R15 N020 N023 10k
R16 N023 0 10k
R1 V+ N001 50k
XX9 V+ 0 A ~A inverter
XX10 V+ 0 B ~B inverter
XX11 V+ 0 C ~C inverter
XX12 N023 N003 N024 N025 V+ 0 passgate
XX13 N020 N003 N021 N022 V+ 0 passgate
XX14 N017 N003 N018 N019 V+ 0 passgate
XX15 N014 N003 N015 N016 V+ 0 passgate
XX16 N011 N003 N012 N013 V+ 0 passgate
XX17 N008 N003 N009 N010 V+ 0 passgate
XX18 N005 N003 N006 N007 V+ 0 passgate
XX19 N001 N003 N002 N004 V+ 0 passgate
V1 V+ 0 5
V2 C 0 PULSE(0 5 1us 100ns 100ns 1us 2us 64)
V3 B 0 PULSE(0 5 2us 100ns 100ns 2us 4us 32)
V4 A 0 PULSE(0 5 4us 100ns 100ns 4us 8us 16)
XX20 N002 N004 A B C 0 V+ 3-n-and
XX21 N006 N007 A B ~C 0 V+ 3-n-and
XX22 N009 N010 A ~B C 0 V+ 3-n-and
XX23 N012 N013 A ~B ~C 0 V+ 3-n-and
XX24 N015 N016 ~A B C 0 V+ 3-n-and
XX25 N018 N019 ~A B ~C 0 V+ 3-n-and
XX26 N021 N022 ~A ~B C 0 V+ 3-n-and
XX27 N024 N025 ~A ~B ~C 0 V+ 3-n-and

* block symbol definitions
.subckt inverter V+ V- A ~A
M1 ~A A V- V- nfet l=0.6um w=1.8um
M2 ~A A V+ V+ pfet l=0.6um w=1.8um
.ends inverter

.subckt passgate In Out ~A A V+ V-
M1 In A Out V- nfet l=0.6um w=1.8um
M2 Out ~A In V+ pfet l=0.6um w=1.8um
.ends passgate

.subckt 3-n-and ~Z Z A B C V- V+
M1 ~Z C N001 V- nfet l=0.6um w=1.8um
M2 N001 B N002 V- nfet l=0.6um w=1.8um
M3 N002 A V- V- nfet l=0.6um w=1.8um
M4 ~Z A V+ V+ pfet l=0.6um w=1.8um
M5 ~Z B V+ V+ pfet l=0.6um w=1.8um
M6 ~Z C V+ V+ pfet l=0.6um w=1.8um
M7 Z ~Z V+ V+ pfet l=0.6um w=1.8um
M8 Z ~Z V- V- nfet l=0.6um w=1.8um
.lib engr3426.sub
.ends 3-n-and

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.lib engr3426.sub
.tran 50us
.backanno
.end
