* Z:\home\mwismer\Dcuments\MADVLSI-Final\LTC\2-OR.asc

M2 N001 A V- V- nfet l=0.6um w=1.8um
M5 N002 N001 V+ V+ pfet l=0.6um w=3.6um
M6 N002 N001 V- V- nfet l=0.6um w=1.8um
M1 V- B N001 V- nfet l=0.6um w=1.8um
M3 N001 A N004 V+ pfet l=0.6um w=1.8um
M4 V+ B N004 V+ pfet l=0.6um w=1.8um
M7 N003 N002 V- V- nfet l=0.6um w=18um
M8 Z N003 V- V- nfet l=0.6um w=18um m=10
M9 N003 N002 V+ V+ pfet l=0.6um w=36um
M10 Z N003 V+ V+ pfet l=0.6um w=36um m=10
